* D:\vyvoj\STM\STM32F051R8T6\TEST\STM320518-EVAL_FW_V1.0.1\Project\zapojeni\v5.asc
R4 0 N006 3000k
XU1 N003 0 0 N006 NC_01 N001 LTC6907
XU2 0 N001 N002 LT1085-3.3
V1 N002 0 4.2
C2 N001 0 10µF
D2 N005 N007 LXML-PWN2-VFBin_R
M1 N001 N003 N004 N004 Si9803DY
R2 N001 N003 4.7k
R1 N005 N004 0.1
M2 N007 N009 0 0 IRFH6200
V2 N008 0 3.3
R5 N007 N009 4.70k tol=1 pwr=0.1
C1 N008 0 10n
R6 N009 N008 4.7k
.model D D
.lib d:\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib d:\LTspiceIV\lib\cmp\standard.mos
.tran 0.9m startup
* cca 67kHz
* 1.3V - 3.3V (GPIO PWM)
* vcc 3.3V
.lib LT1083.lib
.lib LTC6907.sub
.backanno
.end
